US05869516
1a) 5-Methyl-2-(4-nitrophenyl)-2,4-dihydro-3-pyrazolone
1.63 g of p-nitrophenylhydrazine hydrochloride and 1.26 g of ethyl acetoacetate are heated under reflux in 30 ml of ethanol for 45 min. The mixture is concentrated somewhat in vacuo. The crystals which have separated out are then filtered off with suction.

reactant | p-nitrophenylhydrazine hydrochloride | 1.63 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)NN
reactant | ethyl acetoacetate | 1.26 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-Methyl-2-(4-nitrophenyl)-2,4-dihydro-3-pyrazolone | CC=1CC(N(N1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C10H9N3O3
